US04788185
2-Methylthioethyl 2-(2-aminothiazol-4-yl)-2(Z)-(1-tert-butoxycarbonylbutoxyimino)acetate
Starting from 2-methylthioethyl 2-(2-aminothiazol-4-yl)-2(Z)-hydroxyiminoacetate and tert-butyl 2-bromovalerate, the above-identified compound is obtained by the procedure of Reference Example 16.

reactant | 2-methylthioethyl 2-(2-aminothiazol-4-yl)-2(Z)-hydroxyiminoacetate | NC=1SC=C(N1)/C(/C(=O)OCCSC)=N/O | C8H11N3O3S2
reactant | tert-butyl 2-bromovalerate | BrC(C(=O)OC(C)(C)C)CCC | C9H17BrO2
product | 2-Methylthioethyl 2-(2-aminothiazol-4-yl)-2(Z)-(1-tert-butoxycarbonylbutoxyimino)acetate | NC=1SC=C(N1)/C(/C(=O)OCCSC)=N/OC(CCC)C(=O)OC(C)(C)C | C17H27N3O5S2
